datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10][H].[H][NH+:21]=[C:20]([O]CC)[O]CC.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21][H])([O]CC)[O]CC 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)[H])C.[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)[H])C 21=20;20,10=10"
"[OH:21][C:20]1(C)C([H])=C([H])C(C)C(CC)[OH+:10]1>>[OH:10]C(CC)C(C)/C([H])=C([H])\[C:20](C)=[OH+:21] 21=20;20,10=10"
"[H][O:10][H].C[O+:21]=[C:20]([S]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21]C)([S]C8=CC=CC=C8)[O]C 10=20;20,21=21"
"C[O+:10]([H])[C:20]([O:21]C)([S]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O:10][H].C[O+:21]=[C:20]([S]C)[S]C7=CC=CC=C7 21=20;20,10=10"
"[OH:21][C:20]1([H])C([H])C(O)C(C)C(CC)[OH+:10]1>>[OH:10]C(CC)C(C)C(O)C([H])[C:20]([H])=[OH+:21] 21=20;20,10=10"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)C1=CC=CC=C1)[H]>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)[H].[O-:21]C 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[OH:10]C(CCC)C([H])/C(C)=C(C)\[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C(C)=C(C)C([H])C(CCC)[OH+:10]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C)CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C)[O-:10])CC 21=20;20,10=10"
"CC1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CC)[H]>>CC1C(C(O[C:20](=[O:10])N1C)CC)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)[O:10]C(C)C(O)C1[H]>>[O-:10]C(C)C(O)C([C:20](OCC)=[O:21])[H] 21=20;20,10=10"
"C[O:10][H].CC[NH+:21]=[C:20]([O]CC)[NH]C.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]CC)([O]CC)[NH]C 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(CC)[NH]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(CC)[NH][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)C(O)C(C)C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C(C)C(O)C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[O]C([H])C(CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C([H])C(CC)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(C)[NH][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(C)=C([H])C([H])C([H])[NH+:10]1([H])>>[NH:10]([H])C([H])C([H])/C([H])=C(C)\[C:20](OCC)=[O:21] 21=20;20,10=10"
"[NH:10](C)C([H])C(O)C(C)C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(C)C(O)C([H])[NH+:10]1(C) 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C(C)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C(C)[NH]1 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[O]2.[H][NH:10][H] 21=20;20,10=10"
"C(C([O-:21])[H])(C(O[C:20](=[O:10])OCC)[H])CCCCCC>>C1(C(O[C:20]([O-:10])([O:21]C1[H])OCC)[H])CCCCCC 21=20;20,10=10"
"CC[NH:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]C.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[NH]C 10=20;20,21=21"
"[H][O:10]C(C)C([H])[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"[H]N([C:20]([O-:10])(O[H])[O:21]CC)CC>>[H]N([C:20](=[O:10])O[H])CC.[O-:21]CC 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C(C)[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C(C)[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"C1=CC=CC=C1[O+:10]([Li])[C:21]([O-:20])(OC1=CC=CC=C1)OC1=CC=CC=C1>>[O:20]=[C:21](OC1=CC=CC=C1)OC1=CC=CC=C1.C1=CC=CC=C1[O:10][Li] 20=21;21,10=10"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][S:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C)([O-:10])[Cl:21])[H])CC>>[H]C1C(C(O[C:20](=[O:10])N1C)[H])CC.[Cl-:21] 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(O)C(O)C(C)C([H])[NH+:10]1([H])>>[NH:10]([H])C([H])C(C)C(O)C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][O:10]C([H])C(C)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(O)C(C)C([H])C(C)[O+:10]1([K])>>[O:10]([K])C(C)C([H])C(C)C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21]C)([O]CC)[S]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].C[O+:21]=[C:20]([O]CC)[S]CC 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])[H])[H])CCCCCC>>[H]N([C:20]1(OC(C(C([O:21]1)[H])[H])[H])[O-:10])CCCCCC 21=20;20,10=10"
